US04958026
In an autoclave, 1.2 g of N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine and 24 ml of 1N sulfuric acid are heated under argon for 16 hours to 180° C. Subsequently the mixture is combined under ice cooling with sodium bicarbonate and extracted by shaking with ethyl acetate/butanol (10:1). The organic phase is dried, concentrated, and the residue is triturated with ethyl acetate, thus obtaining 700 mg of N,N-dimethyl-N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, mp 233°-234° C., yielding after treatment with methanol and ethereal hydrochloric acid, and recrystallization from methanol/diethyl ether, 680 mg of N,N-dimethyl-N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, hydrochloride, mp 223°-227° C.

reactant | N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine | 1.2 g | CN(CCC1=C2C=NNC2=C(C=C1)N)C | C11H16N4
reactant | sulfuric acid | 1N, 24 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N,N-dimethyl-N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine | 700 mg | CN(CCC1=C2C=NNC2=C(C=C1)O)C | C11H15N3O
